US06818652B2
A solution of 4-[3-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester (0.36 g, 0.88 mmole) in 10 mL of THF was cooled to −78° C. and was treated with 1.1 mL of a 1M lithium bis(trimethylsilyl)amide solution in hexanes. After 30 minutes at −78° C., 0.06 mL of methyl iodide was added. The mixture was stirred at room temperature for 7 hours, quenched by the addition of 10 mL of saturated aqueous ammonium chloride solution and extracted with two 10 mL portions of ethyl acetate. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by flash chromatography (SiO2, 5% ethyl acetate in hexanes) to yield 0.23 g of 4-[3-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester as a pale yellow oil.

reactant | 4-[3-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester | 0.88 mmole, 0.36 g | COC(C1=CC=C(C=C1)C=CC(CCCCC)C1=CC=C2C(CCNC2=C1)(C)C)=O | C27H35NO2
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 0.06 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[3-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester | 0.23 g | COC(C1=CC=C(C=C1)C=CC(CCCCC)C1=CC=C2C(CCN(C2=C1)C)(C)C)=O | C28H37NO2
